US08835470B2
(R/S)-3-(2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)propanoic acid (Int-V, 25 mg, 0.050 mmol), 3-methoxyazetidine, HCl (6.15 mg, 0.050 mmol), 4-methylmorpholine (20.13 mg, 0.199 mmol), and HATU (24.60 mg, 0.065 mmol) were added to DMF (3 mL). This was stirred for 1 h before it was purified via preparative LC/MS with the following conditions: Column: Waters XBridge C18, 19×250 mm, 5-μm particles; Guard Column: Waters XBridge C18, 19×10 mm, 5-μm particles; Mobile Phase A: 5:95 methanol:water with 10-mM ammonium acetate; Mobile Phase B: 95:5 methanol:water with 10-mM ammonium acetate; Gradient: 35-100% B over 25 minutes, then a 5-minute hold at 100% B; Flow: 20 mL/min. Fractions containing the desired product were combined and dried via centrifugal evaporation to give (R/S)-2-hydroxy-N-(3-(3-methoxyazetidin-1-yl)-3-oxopropyl)-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (14.1 mg, 0.025 mmol, 49.6% yield): LCMS=572.2 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.19 (2 H, dd, J=8.41, 1.88 Hz), 7.54-7.77 (7 H, m), 5.11 (1 H, d, J=2.01 Hz), 4.06-4.31 (3 H, m), 3.84-3.98 (1 H, m), 3.69-3.83 (1 H, m), 3.43-3.56 (2 H, m), 3.26 (3 H, d, J=2.76 Hz), 2.29-2.44 (2 H, m); HPLC peak RT=2.4 min (Method E).

reactant | (R/S)-3-(2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)propanoic acid | 0.050 mmol, 25 mg | OC(C(=O)NCCC(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C23H17F3N4O6
reactant | 4-methylmorpholine | 0.199 mmol, 20.13 mg | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.065 mmol, 24.60 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (R/S)-2-hydroxy-N-(3-(3-methoxyazetidin-1-yl)-3-oxopropyl)-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 0.025 mmol, 14.1 mg, 49.6% yield | OC(C(=O)NCCC(=O)N1CC(C1)OC)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C27H24F3N5O6
